US07612075B2
{5-Aminomethyl-2-[4-(6-chloro-benzo[b]thiophene-2-sulfonyl)-2-oxo-piperazin-1-ylmethyl]-thiazol-4-yl}-acetic acid ethyl ester (12 mg, 0.02 mmol) is heated in EtOH (3 mL) for 3 days at 70° C. The precipitate which is formed is filtered to provide 2-[4-(6-chloro-benzo[b]thiophene-2-sulfonyl)-2-oxo-piperazin-1-ylmethyl]-4,7-dihydro-5H-thiazolo[5,4-c]pyridin-6-one. 1H NMR (300 MHz, DMSO) δ8.31 (d, 1H), 8.08-8.02 (m, 2H), 7.55 (dd, 1H), 4.67 (s, 2H), 4.36 (s (broad), 2H), 3.84 (s, 2H), 3.60-3.54 (m, 4H), 3.38 (t, 2H); MS (LC/MS-ESI) 496 (M+H)+.

reactant | {5-Aminomethyl-2-[4-(6-chloro-benzo[b]thiophene-2-sulfonyl)-2-oxo-piperazin-1-ylmethyl]-thiazol-4-yl}-acetic acid ethyl ester | 0.02 mmol, 12 mg | C(C)OC(CC=1N=C(SC1CN)CN1C(CN(CC1)S(=O)(=O)C1=CC2=C(S1)C=C(C=C2)Cl)=O)=O | C21H23ClN4O5S3
solvent | EtOH | 3 mL | CCO | C2H6O
product | 2-[4-(6-chloro-benzo[b]thiophene-2-sulfonyl)-2-oxo-piperazin-1-ylmethyl]-4,7-dihydro-5H-thiazolo[5,4-c]pyridin-6-one | ClC=1C=CC2=C(SC(=C2)S(=O)(=O)N2CC(N(CC2)CC=2SC=3CNC(CC3N2)=O)=O)C1 | C19H17ClN4O4S3
